US08012963B2
2-Chloro-1-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]ethanone
To a solution of dichlorophenylmethyl sulfoxide (5.94 g, 28.4 mmol; K. C. Tin & T. Dust, Tetra. Lett. 1970, 4643) in THF (100 mL) at −78° C. was added LDA (1.8 M in THF, 20.5 mL, 36.9 mmol). The reaction mixture was stirred at −78° C. for 15 min and then was added 3-(1,1,2,2-tetrafluoro-ethoxy)-benzaldehyde (6.94 g, 31.3 mmol). After stirring at −78° C. for 45 min, EtMgBr (1.0 M solution in t-BuOMe, 60 mL, 60 mmol) was added. The reaction mixture was stirred at −78° C. for another 40 min, quenched with NH4Cl aqueous solution and acidified with 1 N HCl. The organic layer was separated and the aqueous layer was extracted with CH2Cl2. The combined organic phases were dried (Na2SO4), concentrated and purified by column chromatography to give 4.13 g (49%) of A2a as a yellow oil: 1H NMR (300 MHz, CDCl3) δ 7.89 (dd, J=7.6, 2.6 Hz, 1H), 7.81 (s, 1H), 7.58-7.46 (m, 2H), 5.95 (tt, J=53.0, 2.7 Hz, 1H), 4.68 (s, 2H); MS (ES) m/z: 293 (M+Na+).

reactant | dichlorophenylmethyl sulfoxide | 28.4 mmol, 5.94 g | ClC(C1=CC=CC=C1)(Cl)S(=O)C(Cl)(Cl)C1=CC=CC=C1 | C14H10Cl4OS
reactant | LDA | 36.9 mmol, 1.8 M, 20.5 mL | [Li+].CC(C)[N-]C(C)C
reactant | 3-(1,1,2,2-tetrafluoro-ethoxy)-benzaldehyde | 31.3 mmol, 6.94 g | FC(C(F)F)(OC=1C=C(C=O)C=CC1)F | C9H6F4O2
reactant | EtMgBr | 60 mmol, 1.0 M, 60 mL | CC[Mg+].[Br-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-Chloro-1-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]ethanone | ClCC(=O)C1=CC(=CC=C1)OC(C(F)F)(F)F | C10H7ClF4O2
